US06329370B1
6-Hydroxy-3H-isobenzofuran-1-one
A solution of 6-methoxy-3H-isobenzofuran-1-one (50 g, 0.3 moles), prepared as described in example 34, in CH2Cl2 (250 ml) under N2 at −5° C., was dropwise added with BBr3 (360 ml 0.36 moles). At the end of the addition the solution was stirred at room temperature overnight, then cooled and added with further BBr3 (60 ml, 60 mmoles). The stirring was kept on for 4 hours at room temperature. The mixture was cooled and added with CH3OH (250 ml), then dried under vacuum to give a solid which was triturated in ethyl ether and washed with ethyl ether and ethyl acetate. After drying under vacuum at 40° C. a solid was obtained which was joined to the solid yielded by drying the mother liquors, discolouring and triturating in ethyl ether. There were obtained 33.51 g of the title compound (yield: 73%).

reactant | 6-methoxy-3H-isobenzofuran-1-one | 0.3 moles, 50 g | COC1=CC=C2COC(C2=C1)=O | C9H8O3
reactant | BBr3 | 0.36 moles, 360 ml | B(Br)(Br)Br | BBr3
reactant | BBr3 | 60 mmoles, 60 ml | B(Br)(Br)Br | BBr3
reactant | CH3OH | 250 ml | CO | CH4O
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-3H-isobenzofuran-1-one | 33.51 g, yield: 73% | OC1=CC=C2COC(C2=C1)=O | C8H6O3
